US05225402
1-[1-(4-Formylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (500 mg) is dissolved in methanol (10 ml) and thereto is added sodium boron hydride (63 mg) under ice cooling and the mixture is stirred for 2 hours. The solvent is concentrated and the resulting residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=2:1) and recrystallized from n-hexane/ethanol to give 1-[1-(4-hydroxymethylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (390 mg) as white powder, m.p.: 138°-139° C.

reactant | 1-[1-(4-Formylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 500 mg | C(=O)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C22H22N2O3
reactant | sodium boron hydride | 63 mg | B.[Na]
solvent | methanol | 10 ml | CO | CH4O
product | 1-[1-(4-hydroxymethylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 390 mg | OCC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C22H24N2O3
